US08445509B2
Production of N-[4-({2-[(cyclopropylcarbonyl)amino]imidazo[1,2-a]pyridin-6-yl}oxy)phenyl]-5-methyl-1-phenyl-1H-pyrazole-3-carboxamide
To a solution of 5-methyl-1-phenyl-1H-pyrazole-3-carboxylic acid (197 mg, 973 μmol) in tetrahydrofuran (2 mL) were added oxalyl chloride (80 μL, 973 μmol) and N,N-dimethylformamide (2 drops) under ice-cooling, and the mixture was stirred at room temperature for 1 hr. A solution of N-[6-(4-aminophenoxy)imidazo[1,2-a]pyridin-2-yl]cyclopropanecarboxamide (200 mg, 649 μmol) in N,N-dimethylacetamide (2 mL) was added to the reaction solution, and the mixture was stirred at room temperature for 2 hr. Saturated aqueous sodium hydrogen carbonate was added to the reaction solution, and the mixture was extracted with ethyl acetate. The organic layer was washed with 1N aqueous sodium hydroxide solution, water and saturated brine, dried over anhydrous magnesium sulfate and concentrated. The obtained residue was recrystallized from ethanol/water to give the title compound (187 mg, 39%) as a white powder.

reactant | 5-methyl-1-phenyl-1H-pyrazole-3-carboxylic acid | 973 μmol, 197 mg | CC1=CC(=NN1C1=CC=CC=C1)C(=O)O | C11H10N2O2
reactant | oxalyl chloride | 973 μmol, 80 μL | C(C(=O)Cl)(=O)Cl | C2Cl2O2
reactant | N-[6-(4-aminophenoxy)imidazo[1,2-a]pyridin-2-yl]cyclopropanecarboxamide | 649 μmol, 200 mg | NC1=CC=C(OC=2C=CC=3N(C2)C=C(N3)NC(=O)C3CC3)C=C1 | C17H16N4O2
reactant | sodium hydrogen carbonate | C(O)([O-])=O.[Na+]
solvent | tetrahydrofuran | 2 mL | O1CCCC1 | C4H8O
catalyst | N,N-dimethylformamide | 2 drops | CN(C=O)C | C3H7NO
solvent | N,N-dimethylacetamide | 2 mL | CN(C(C)=O)C | C4H9NO
product | N-[4-({2-[(cyclopropylcarbonyl)amino]imidazo[1,2-a]pyridin-6-yl}oxy)phenyl]-5-methyl-1-phenyl-1H-pyrazole-3-carboxamide | 187 mg, 39% | C1(CC1)C(=O)NC=1N=C2N(C=C(C=C2)OC2=CC=C(C=C2)NC(=O)C2=NN(C(=C2)C)C2=CC=CC=C2)C1 | C28H24N6O3
